US07297816B2
(±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-N-[2-(3,4-dichloro-phenyl)-propyl]-benzamide
The title compound was prepared from 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid and (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride as in EXAMPLE 1, Part C. HPLC: RT=12.51 min. MS (ESI−): mass calcd. for C22H16Cl4N4O3S2, 587.94; m/z found, 587/589/591 [M−H]−. 1H NMR (500 MHz, CDCl3): 11.22 (s, 1H), 8.35 (d, J=7.0, 1H), 8.24 (d, J=8.8, 1H), 7.89 (s, 1H), 7.74-7.71 (m, 1H), 7.41 (d, J=8.2, 1H), 7.29 (d, J=2.0, 1H), 7.14 (s, 1H), 7.05 (dd, J=8.2, 2.0, 1H), 5.79 (s, 1H), 3.69-3.63 (m, 1H), 3.34-3.29 (m, 1H), 3.03-2.99 (m, 1H), 1.31 (d, J=7.0, 3H).

reactant | 2-(benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-benzoic acid | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)O)C=C(C(=C2)Cl)Cl | C13H7Cl2N3O4S2
reactant | (±)-2-(3,4-dichloro-phenyl)-propylamine hydrochloride | Cl.ClC=1C=C(C=CC1Cl)C(CN)C
product | (±)-2-(Benzo[1,2,5]thiadiazole-4-sulfonylamino)-4,5-dichloro-N-[2-(3,4-dichloro-phenyl)-propyl]-benzamide | N1=C2C(=NS1)C(=CC=C2)S(=O)(=O)NC2=C(C(=O)NCC(C)C1=CC(=C(C=C1)Cl)Cl)C=C(C(=C2)Cl)Cl | C22H16Cl4N4O3S2
